US06727249B2
(1R*,5S*,6S*)-8-Benzyl-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]octan-2-one
A mixture of (1R*,5S*,6S*)-8-benzyl-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]oct-3-en-2-one (Description 36; 795 mg, 66 mmol), 10% palladium on charcoal (250 mg), ethyl acetate (5 ml) and ethanol(10 mi) was stirred under hydrogen atmosphere (1 atm) at room temperature for 1 hour. The reaction mixture was treated with dichloromethane (500 ml), filtered through a pad of Celite™. The filtrate was concentrated to give the title compound.

reactant | (1R*,5S*,6S*)-8-benzyl-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]oct-3-en-2-one | 66 mmol, 795 mg | C(C1=CC=CC=C1)N1[C@@]2(C(C=C[C@H]1[C@](C2)(F)C(=O)OCC)=O)C2=CC=CC=C2 | C23H22FNO3
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (1R*,5S*,6S*)-8-Benzyl-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]octan-2-one | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@](C2)(F)C(=O)OCC)=O)C2=CC=CC=C2 | C23H24FNO3
